US05395944
b) 1-Aminomethyl-7-benzyl-2-oxa-7-aza-bicyclo[3.3.0]octane
10.2 g (40 mmol, 90% pure) of 7-benzyl-1-cyano-2-oxa-7-aza-bicyclo[3.3.0]octane are added dropwise to 2 g of lithium aluminium hydride in 100 ml of absolute tetrahydrofuran and the mixture is subsequently stirred under reflux for 15 hours. 2 ml each of water, 15% strength potassium hydroxide solution, and again water, are added dropwise, the inorganic salts are filtered off with suction, and the filtrate is concentrated and distilled.

reactant | 7-benzyl-1-cyano-2-oxa-7-aza-bicyclo[3.3.0]octane | 40 mmol, 10.2 g | C(C1=CC=CC=C1)N1CC2CCOC2(C1)C#N | C14H16N2O
reactant | lithium aluminium hydride | 2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 2 ml | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-Aminomethyl-7-benzyl-2-oxa-7-aza-bicyclo[3.3.0]octane | NCC12OCCC2CN(C1)CC1=CC=CC=C1 | C14H20N2O
